US06987158B2
17.4 g (0.25 mol) of 1,2,3-triazole were reacted with an equivalent amount of methanolic sodium methoxide solution in 200 ml of methanol by the process described for catalyst 1. The reaction mixture was worked up as described above to give 22.4 g of sodium 1,2,3-triazolate (yield: 98% of theory) in the form of a virtually colourless powder. The product was pure according to its 1H-NMR spectrum and free from starting material.

reactant | 1,2,3-triazole | 0.25 mol, 17.4 g | N1N=NC=C1 | C2H3N3
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 200 ml | CO | CH4O
product | sodium 1,2,3-triazolate | 22.4 g, yield: 98% | N1N=NC(=C1)C(=O)[O-].[Na+] | InChI=1S/C3H3N3O2.Na/c7-3(8)2-1-4-6-5-2;/h1H,(H,7,8)(H,4,5,6);/q;+1/p-1
